US09145392B2
5-(4-Methoxy-phenyl)-4-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine (“34”)
The title compound was prepared in an analogous manner as 6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-(4-methoxy-phenyl)-pyrimidin-4-ylamine using 5-Bromo-4-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine instead of 5-bromo-6-(4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1H-imidazol-2-yl}piperidin-1-yl)pyrimidin-4-amine. LC-MS: (M+1=480, obsd.=480).

reactant | 6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-(4-methoxy-phenyl)-pyrimidin-4-ylamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCN(CC1)C1=C(C(=NC=N1)N)C1=CC=C(C=C1)OC)C(F)(F)F | C27H26F4N6O
reactant | 5-Bromo-4-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine | BrC=1C(=NC=NC1)N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C19H17BrF3N5
product | 5-(4-Methoxy-phenyl)-4-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine | COC1=CC=C(C=C1)C=1C(=NC=NC1)N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C26H24F3N5O
